### PR TITLE
[Merged by Bors] - feat: `arith_mult`: an `aesop` tactic for proving `IsMultiplicative` statements

### PR DESCRIPTION
**Pull request by amellendijk**
Add a tactic that proves multiplicativity of arithmetic functions using Aesop by applying structural lemmas, akin to the `continuity` and `measurability` tactics. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/Multiplicativity.lean [hunk 1]
```diff
@@ -0,0 +1,41 @@
...
+/--
+The `multiplicativity` attribute used to tag `IsMultiplicative` statements for the
+`multiplicativity` tactic. -/
+macro "multiplicativity" : attr =>
+  `(attr|aesop safe apply (rule_sets [$(Lean.mkIdent `IsMultiplicative):ident]))
+
+/--
+`multiplicativity` solves goals of the form `IsMultiplicative f` for `f : ArithmeticFunction R`
+by applying lemmas tagged with the user attribute `multiplicativity`. -/
+macro (name := multiplicativity) "multiplicativity" c:Aesop.tactic_clause* : tactic =>
```
Comment (Vierkantor) [inline Mathlib/Tactic/Multiplicativity.lean:27]: The name sounds quite general compared to the actual scope: "multiplicative" has lots of uses like "multiplicative actions", and the `Multiplicative` type synonym. So maybe a more complicated name like `arith_multiplicative`?

**Review by Vierkantor — COMMENTED** [review]
I like the way this tactic can be implemented quite easily using `aesop`! Although I do have a big question: wouldn't it better to use the new `fun_prop` system: https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/.60fun_prop.60.20new.20tactic.20for.20Differentiable.2C.20Continuous.2C.20.2E.2E.2E

File: Mathlib/Tactic/Multiplicativity.lean (hunk 1 above)
Comment (lecopivo) [reply Mathlib/Tactic/Multiplicativity.lean:27]: `fun_prop` is designed for proposition for which you have `*_id`, `*_const`, `*_comp`, `*_apply` and `*_pi` theorems(or subset of them). I do not see them for  `IsMultiplicative` so I don't think it is applicable in this case.

Comment (Vierkantor) [reply Mathlib/Tactic/Multiplicativity.lean:27]: Sorry for the late reply - since this was still tagged `awaiting-author` I was expecting you might have more to say/do here.

I see why `fun_prop` wouldn't be appropriate for this tactic then. So the design looks good and I just have a question about the name.

Note that the tactic syntax `multiplicative` is not namespaced:
```
example : Nat.ArithmeticFunction.IsMultiplicative Nat.ArithmeticFunction.moebius := by multiplicativity
```
works without opening any namespace. So I really do think that a more specific name should be used.

Comment (FLDutchmann) [reply Mathlib/Tactic/Multiplicativity.lean:27]: Sorry for the delay on my part. I agree with changing the name. How about `arith_mult`? `multiplicativity` is frankly a bit of a mouthful.

And I also think `aesop` is probably a little suboptimal regarding performance and code extraction, but for a tactic that won't be very widely used, it should be fine. (that is to say I am pretty excited about `fun_prop`, and I'm a little sad it can't be used here)

There's also a merge conflict at the moment, so I'll merge master and rename.

File: Mathlib/Tactic/ArithMult.lean [hunk 2]
```diff
@@ -0,0 +1,43 @@
...
+/--
+`arith_mult` solves goals of the form `IsMultiplicative f` for `f : ArithmeticFunction R`
+by applying lemmas tagged with the user attribute `arith_mult`. -/
+macro (name := arith_mult) "arith_mult" c:Aesop.tactic_clause* : tactic =>
+`(tactic|
+  { aesop $c* (config :=
+  { destructProductsTransparency := .reducible,
+    applyHypsTransparency := .default,
+    introsTransparency? := some .reducible,
+    enableSimp := false} )
```
Comment (Vierkantor) [inline Mathlib/Tactic/ArithMult.lean:34]:
```suggestion
    { destructProductsTransparency := .reducible,
      applyHypsTransparency := .default,
      introsTransparency? := some .reducible,
      enableSimp := false } )
```

File: test/ArithMult.lean [hunk 3]
```diff
@@ -0,0 +1,26 @@
...
+open scoped BigOperators
+open ArithmeticFunction
+
+variable {R : Type*} [Field R]
+
+set_option linter.unusedVariables false
+
+example : IsMultiplicative μ := by arith_mult
+
+example : IsMultiplicative (ζ*ζ) := by arith_mult
```
Comment (Vierkantor) [inline test/ArithMult.lean:18]:
```suggestion
example : IsMultiplicative (ζ * ζ) := by arith_mult
```

File: test/ArithMult.lean [hunk 4]
```diff
@@ -0,0 +1,26 @@
...
+
+example {R : Type*} [Field R] (f : ArithmeticFunction R) (hf : IsMultiplicative f) :
+    IsMultiplicative ((ζ:ArithmeticFunction R).pdiv f) := by arith_mult
```
Comment (Vierkantor) [inline test/ArithMult.lean:21]:
```suggestion
    IsMultiplicative ((ζ : ArithmeticFunction R).pdiv f) := by arith_mult
```

File: test/ArithMult.lean [hunk 5]
```diff
@@ -0,0 +1,26 @@
...
+
+example (f g : ArithmeticFunction R) (hf : IsMultiplicative f) :
+    IsMultiplicative (prodPrimeFactors g |>.pmul f) := by arith_mult
+
+example (n : ℕ) : IsMultiplicative <| (σ n * pow (n+3)).ppow 2 := by arith_mult
```
Comment (Vierkantor) [inline test/ArithMult.lean:26]:
```suggestion
example (n : ℕ) : IsMultiplicative <| (σ n * pow (n + 3)).ppow 2 := by arith_mult
```

**Review by Vierkantor — APPROVED** [review]
Some minor formatting fixes and it looks good to me.

bors d+
